US05807883
A mixture of 375 mg of ethyl 3-[2,3-dihydro-3-(1H-indol-2-ylcarbonyl)amino-2-oxo-1-pentyl-1H-indol-3-yl]propionate, 530 mg of acrylonitrile, 3 drops of 1,8-diazabicyclo-[5.4.0]undec-7-ene (DBU) and 4 ml of dimethylformamide was stirred at 80° C. for 22 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. After the extract was washed, dried and then treated with activated charcoal, the solvent was removed by evaporation under reduced pressure to afford a caramel. A mixture of the residue obtained, 1.4 ml of an aqueous 2N sodium hydroxide solution and 10 ml of methanol was stirred at room temperature for 20 hours. After removal of methanol from the reaction mixture by evaporation under reduced pressure, the residue was made acidic with 10% hydrochloric acid and extracted with chloroform. After the extract was dried, the solvent was removed by evaporation under reduced pressure. The residue was recrystallized from diisopropyl ether to afford 150 mg of 3-[3-[1-(2-cyanoethyl)-1H-indol-2-ylcarbonylamino]-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]propionic acid. Melting point 125° C.

reactant | ethyl 3-[2,3-dihydro-3-(1H-indol-2-ylcarbonyl)amino-2-oxo-1-pentyl-1H-indol-3-yl]propionate | 375 mg | N1C(=CC2=CC=CC=C12)C(=O)NC1(C(N(C2=CC=CC=C12)CCCCC)=O)CCC(=O)OCC | C27H31N3O4
reactant | acrylonitrile | 530 mg | C(C=C)#N | C3H3N
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 2N | [OH-].[Na+]
catalyst | 1,8-diazabicyclo-[5.4.0]undec-7-ene | 3 drops | N12CCCCCC2=NCCC1 | C9H16N2
solvent | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 3-[3-[1-(2-cyanoethyl)-1H-indol-2-ylcarbonylamino]-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]propionic acid | 150 mg | C(#N)CCN1C(=CC2=CC=CC=C12)C(=O)NC1(C(N(C2=CC=CC=C12)CCCCC)=O)CCC(=O)O | C28H30N4O4
